US08258302B2
5.08 g (30 mmol) of 2-aminobiphenyl, 50 ml of ethyl acetate, and 3.1 g (30 mmol) of triethylamine were placed in a flask, to which 4.1 g (30 mmol) of ethyl chloroglyoxylate was added dropwise under ice cooling. The reaction mixture was stirred at room temperature for three hours, and then 50 ml of ethyl acetate was added thereto. The organic layer was washed with 30 ml of 1N hydrochloric acid and 30 ml of brine one by one, and then was dried with anhydrous sodium sulfate. The solvent was removed by evaporation to obtain 6.8 g (24 mmol, yield 85%) of ethyl N-biphenyl-2-yloxamate as colorless crystals.

reactant | 2-aminobiphenyl | 30 mmol, 5.08 g | NC1=C(C=CC=C1)C1=CC=CC=C1 | C12H11N
reactant | triethylamine | 30 mmol, 3.1 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroglyoxylate | 30 mmol, 4.1 g | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | ethyl N-biphenyl-2-yloxamate | 24 mmol, 6.8 g, yield 85% | C1(=C(C=CC=C1)NC(C(=O)OCC)=O)C1=CC=CC=C1 | C16H15NO3
